US07576104B2
N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-2-methylamino-acetamide hydrochloride I-61
To a suspensions of N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-chloroacetamide (0.95 g, 2.72 mmol) in THF (30 ml) was added sodium iodide (0.41 g, 2.72 mmol) and 2M methyl amine in THF (4.08 ml, 8.15 mmol). The mixture was stirred at room temperature for 5 hours. The solvent was evaporated in vacuo leaving a white solid. The solid was slurried in ethyl acetate (200 ml) for 2 h. The suspension was then washed with water (3×100 ml), brine (100 ml), and dried (MgSO4). The solvent was evaporated in vacuo leaving an off-white solid. The solid was dissolved in acetonitrile (20 ml) and to this solution was added 2M HCl in ether (2 ml). The mixture was stirred for 1 h and the solvent evaporated in vacuo. The residue was slurried in ethyl acetate for 3 h and filtered to give an off-white solid. The solid was dissolved in water (40 ml) and washed with ethyl acetate (2×50 ml). The pH of the aqueous portion was adjusted to 11-12 by dropwise addition of saturated aqueous sodium carbonate. The aqueous mixture was washed with ethyl acetate (3×100 ml). The combined ethyl acetate extracts were washed with brine (100 ml), and dried (MgSO4). The solvent was evaporated in vacuo leaving a white solid. The solid was dissolved in acetonitrile (15 ml) and 2M HCl in ether (2 ml) was added to the solution. The mixture was stirred for 1 h and the solvent was evaporated in vacuo leaving a white solid. The solid was slurried in ethyl ether (20 ml) and filtered to give 0.18 g (17%) of product as a white solid: mp 228-230° C.; 1H NMR (DMSO-d6) d 11.13 (s, 1H), 10.50 (s, 1H), 9.35 (bs, 2H), 8.28-8.21 (m, 1H), 7.93-7.63 (m, 2H), 5.15 (dd, J=5.1 and 12.6 Hz, 1H), 4.09 (s, 2H), 3.03-2.85 (m, 1H), 2.63-2.47 (m, 5H), 2.10-2.05 (m, 1H); 13C NMR (DMSO-d6) d 171.99, 169.03, 166.35, 166.07, 164.75, 135.63, 134.46, 131.56, 127.45, 119.14, 118.85, 49.56, 48.82, 32.49, 30.59, 21.69; Anal. Calcd. For C16H17ClN4O5: C, 48.99; H, 4.70; N, 14.28. Found: C, 48.82; H, 4.72; N, 14.02+0.64H2O.

reactant | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-chloroacetamide | 2.72 mmol, 0.95 g | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(CCl)=O)=O)=O | C15H12ClN3O5
reactant | sodium iodide | 2.72 mmol, 0.41 g | [I-].[Na+]
reactant | methyl amine | 2M | CN | CH5N
reactant | HCl | 2M | Cl | ClH
reactant | HCl | 2M | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | water | 40 ml | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | THF | 8.15 mmol, 4.08 ml | C1CCOC1 | C4H8O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-2-methylamino-acetamide hydrochloride | 0.18 g, 17% | Cl.O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(CNC)=O)=O)=O | InChI=1S/C16H16N4O5.ClH/c1-17-7-12(22)18-9-4-2-3-8-13(9)16(25)20(15(8)24)10-5-6-11(21)19-14(10)23;/h2-4,10,17H,5-7H2,1H3,(H,18,22)(H,19,21,23);1H
